* C:\users\sebastian\Desktop\FIUBA-2do Cuatrimestre\Dispositivos Semiconductores\TP3\TP3.asc
M1 0 VG 0 0 myNMOS2 level=49 l=85u w=85u Tox=16n Nch=2e16 Nsub=2e16 CAPMOD=0
M2 0 VG 0 0 myNMOS1 myNMOS2 level=49 l=85u w=85u Tox=16n Nch=2e16 Nsub=2e16 CAPMOD=2
V1 VG 0 PULSE(-1.8 , 1.2 , 0 , 1 , 1 , 0 , 2 )
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\sebastian\Documents\LTspiceXVII\lib\cmp\standard.mos
myNMOS2 level=49 l=85u w=85u Tox=16n Nch=2e16 Nsub=2e16 CAPMOD=0
myNMOS1 myNMOS2 level=49 l=85u w=85u Tox=16n Nch=2e16 Nsub=2e16 CAPMOD=2
.tran 0 1 2u 2u
.backanno
.end
