* C:\users\sebastian\Desktop\FIUBA-2do Cuatrimestre\Dispositivos Semiconductores\TP3\TP3.asc
M1 0 VG 0 0 myNMOS2 level=49 l=85u w=85u Tox=16n Nch=2e16 Nsub=2e16 CAPMOD=0
M2 0 VG 0 0 myNMOS1 myNMOS2 level=49 l=85u w=85u Tox=16n Nch=2e16 Nsub=2e16 CAPMOD=2
V1 VG 0 PULSE(-2 1 0 1 1 0 1)
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\sebastian\Documents\LTspiceXVII\lib\cmp\standard.mos
.MODEL myNMOS2 NMOS(level=49 + Tox=16n +Nch=2e16 +Nsub=2e16 +CAPMOD=09 VT = 0.7
.MODEL myNMOS1 NMOS( level=49 +Tox=16n +Nch=2e16 +Nsub=2e16+ CAPMOD=2)
.tran 0 1 2u 2u
.backanno
.end
